US07504401B2
(3-Bromo-5-methoxy-phenyl)-pyridin-3-yl-amine was prepared from 1,3-dibromo-5-methoxy-benzene and pyridin-3-ylamine as described for Example 36. This material was converted to [3-(1H-indol-4-yl)-5-methoxy-phenyl]-pyridin-3-yl-amine by the method of Example 35. 1H NMR (400 MHz, CDCl3): δ 8.44 (d, J=2.7 Hz, 1H), 8.34 (br s, 1H), 8.17 (dd, J=4.7, 1.2 Hz, 1H), 7.50 (ddd, J=8.2, 2.7, 1.4 Hz, 1H), 7.39 (d, J=8.2 Hz, 1H), 7.27-7.23 (m, 2H), 7.19-7.15 (m, 2H), 6.98 (t, J=1.7 Hz, 1H), 6.89 (dd, J=2.2, 1.4 Hz, 1H), 6.73 (t, J=2.1 Hz, 1H), 6.64 (t, J=2.2 Hz, 1H), 5.81 (s, 1H), 3.84 (s, 3H).

reactant | 1,3-dibromo-5-methoxy-benzene | BrC1=CC(=CC(=C1)OC)Br | C7H6Br2O
reactant | pyridin-3-ylamine | N1=CC(=CC=C1)N | C5H6N2
reactant | [3-(1H-indol-4-yl)-5-methoxy-phenyl]-pyridin-3-yl-amine | N1C=CC2=C(C=CC=C12)C=1C=C(C=C(C1)OC)NC=1C=NC=CC1 | C20H17N3O
product | (3-Bromo-5-methoxy-phenyl)-pyridin-3-yl-amine | BrC=1C=C(C=C(C1)OC)NC=1C=NC=CC1 | C12H11BrN2O
